US06288061B1
Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate (12.8 g) and 2-nitrobenzylamine (8.6 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-methylphenyl)-2-(2-nitrophenyl)imidazole-4-carboxylate(3.5g). 3.0 g therefrom was dissolved in ethyl alcohol (100 ml) and 1 M sodium hydroxide solution (20 ml) was added. The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methylphenyl)-2-(2-nitrophenyl)imidazole-4-carboxyic acid (2.4 g), melting point 144° C. (decomposition).

reactant | Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate | 12.8 g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13NO4
reactant | 2-nitrobenzylamine | 8.6 g | [N+](=O)([O-])C1=C(CN)C=CC=C1 | C7H8N2O2
product | ethyl 5-(4-methylphenyl)-2-(2-nitrophenyl)imidazole-4-carboxylate | 3.5g | CC1=CC=C(C=C1)C1=C(N=C(N1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C19H17N3O4
